US07615568B2
A. Methyl 4-Methylthio-2-[cis-4-(N-t-butoxycarbonyl-N-methylamino)cyclohexyloxy]benzoate
To a mixture of methyl 4-methylthio-2-[cis-4-(t-butoxy-carbonylamino)cyclohexyloxy]benzoate (3.0 g, 7.59 mmol) in THF (15 mL) at −20° C. was added 1 M lithium hexamethyl-disilazide (LiHMDS)/hexane (8.0 ml, 7.97 mmol, 1.05 eq), and the mixture was warmed to 0° C. for 10 min. To the reaction mixture was added methyl iodide (0.5 mL, 7.97 mmol, 1.05 equivalent), the mixture was warmed to room temperature and stirred for 7 h, and the reaction was quenched with satd citric acid. The mixture was diluted with CH2Cl2 and partitioned. The organic layer was dried (Na2SO4) and concentrated. This material was combined with the crude product from a small scaled reaction (500 mg, 1.27 mmol), chromatographed (400 g, SiO2, hexanes to 20% EtOAc/hexanes) and triturated with Et2O to give the title compound as a white solid (1.3 g, 36%).

reactant | methyl 4-methylthio-2-[cis-4-(t-butoxy-carbonylamino)cyclohexyloxy]benzoate | 7.59 mmol, 3.0 g | CSC1=CC(=C(C(=O)OC)C=C1)O[C@@H]1CC[C@@H](CC1)NC(=O)OC(C)(C)C | C20H29NO5S
reactant | lithium hexamethyl-disilazide | 7.97 mmol, 1 M, 8.0 ml, 1.05 eq | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | methyl iodide | 7.97 mmol, 0.5 mL, 1.05 equivalent | CI | CH3I
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | Methyl 4-Methylthio-2-[cis-4-(N-t-butoxycarbonyl-N-methylamino)cyclohexyloxy]benzoate | 1.3 g, 36% | CSC1=CC(=C(C(=O)OC)C=C1)O[C@@H]1CC[C@@H](CC1)N(C)C(=O)OC(C)(C)C | C21H31NO5S
